US05100897
2-n-Butyl-6-methylpyrimidin-4(3H)-one
A solution of 2.0 g valeramidine hydrochloride, 1.9 g ethyl acetoacetate, and 791 mg sodium methoxide in 20 mL methanol was refluxed for 24 hours. The mixture was diluted with brine and water and was extracted three times with ether. The combined organic material was washed with brine, was dried over MgSO4, was stripped of solvent in vacuo, and then was Still flash chromatographed in 4% MeOH in CH2Cl2 to give the title compound as a white solid 1H NMR (250 MHz, CDCl3) δ13.01 (br s, 1H), 6.18 (s, 1H), 2.67 (3 line m, 2H), 2.31 (s, 3H), 1.76 (m, 2H), 1.42 (m, 2H), 0.95 (3 line m, 3H).

reactant | valeramidine hydrochloride | 2.0 g | Cl.C(CCCC)(=N)N
reactant | ethyl acetoacetate | 1.9 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium methoxide | 791 mg | C[O-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
product | 2-n-Butyl-6-methylpyrimidin-4(3H)-one | C(CCC)C1=NC(=CC(N1)=O)C | C9H14N2O
